US04981690
Mepartricin Characterization
A typical chromatograph of mepartricins, SPA-222 and SPA-160 is presented in FIG. 2 a and b respectively. Two major peaks were obtained with both the analogues which correspond to Mepartricin A and B (Golik et al, (1980) J. Antibiot 33 904. The retention times of MP-A and MP-B were 8:5 min and 13:5 min. respectively. The purity of MP-A and B complex was observed to be in the range of 68 to 74%.

reactant | Mepartricin A | C[C@@H]1[C@H]([C@@H]([C@@H]([C@@H](O1)OC2CC3C(C(CC(O3)(CC(CC(CC(CC(CC(=O)CC(CC(=O)OC(C(C=CC=CC=CC=CC=CC=CC=C2)C)C(C)CCC(CC(=O)C4=CC=C(C=C4)NC)O)O)O)O)O)O)O)O)C(=O)OC)O)N)O | C60H88N2O19
reactant | MP-A | CC[C@H](C)[C@@H](C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CC1=CNC2=CC=CC=C21)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(=O)O)C(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N)N | C79H138N20O16
reactant | MP-B | CC[C@H](C)[C@@H](C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CNC2=CC=CC=C21)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N)NC(=O)[C@H](CO)NC(=O)[C@H](CCCCN)NC(=O)[C@H](CC(C)C)NC(=O)[C@H](CCCCN)NC(=O)[C@H](CC(C)C)N | C78H138N20O16
product | Mepartricin | C[C@@H]1[C@H]([C@@H]([C@@H]([C@@H](O1)OC\2CC3C(C(CC(O3)(CC(CC(CC(CC(CC(=O)CC(CC(=O)OC(C(/C=C/C=C/C=C/C=C/C=C/C=C/C=C2)C)C(C)CCC(CC(=O)C=4C=CC(=CC4)N)O)O)O)O)O)O)O)O)C(=O)OC)O)N)O | C59H86N2O19
